US06114532
a. 4-[(5-(2-methylphenyl)-benzothiazol-2-yl)-methyl]-benzonitrile
Under a nitrogen atmosphere 1.3 g (3.95 mmol) of 4-[(5-bromobenzothiazol-2-yl)-methyl]-benzonitrile and 1.3 g (1.1 mmol) of bis(triphenylphosphine)-palladium(II)-chloride are stirred into 40 ml toluene for 15 minutes at 40° C. Then 1.3 g (12.3 mmol) of sodium carbonate in 5.6 ml water and 0.84 g (6.1 mmol) of o-tolylboric acid in 5 ml methanol are added. The reaction mixture is refluxed for 10 hours. After cooling the reaction solution is diluted with ethyl acetate and extracted with water. The combined organic extracts are washed with sodium chloride solution and dried. The residue is chromatographed on silica gel and eluted with ethyl acetate/petroleum ether 5:95, 10:95 and 15:85. The desired fractions are combined and concentrated by evaporation.

reactant | 4-[(5-bromobenzothiazol-2-yl)-methyl]-benzonitrile | 3.95 mmol, 1.3 g | BrC=1C=CC2=C(N=C(S2)CC2=CC=C(C#N)C=C2)C1 | C15H9BrN2S
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 12.3 mmol, 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-tolylboric acid | 6.1 mmol, 0.84 g | C1(=C(C=CC=C1)OB(O)O)C | C7H9BO3
solvent | water | 5.6 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II)-chloride | 1.1 mmol, 1.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-[(5-(2-methylphenyl)-benzothiazol-2-yl)-methyl]-benzonitrile | CC1=C(C=CC=C1)C=1C=CC2=C(N=C(S2)CC2=CC=C(C#N)C=C2)C1 | C22H16N2S
